US05095022
4-(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinebutyric acid hydrochloride
A mixture of 3.31 g of ethyl 4-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinebutyrate hydrochloride, 11.7 ml of 2N sodium hydroxide aqueous solution and 35 ml of methanol was refluxed for 1 hr and concentrated. Water was added to the residue, adjusted to pH 1 with 10% hydrochloric acid. The precipitate was collected by filtlation to give 2.97 g of brown solid, which was recrystallized from a mixture of ethanol and ether to give 2.48 g of colorless needles, mp 211.5°-214.5° C.

reactant | ethyl 4-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinebutyrate hydrochloride | 3.31 g | Cl.C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=C3CCN(CC3)CCCC(=O)OCC
reactant | sodium hydroxide | 2N, 11.7 ml | [OH-].[Na+]
solvent | methanol | 35 ml | CO | CH4O
product | 4-(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-piperidinebutyric acid hydrochloride | 2.97 g | Cl.C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=C3CCN(CC3)CCCC(=O)O | InChI=1S/C24H27NO2.ClH/c26-23(27)10-5-15-25-16-13-20(14-17-25)24-21-8-3-1-6-18(21)11-12-19-7-2-4-9-22(19)24;/h1-4,6-9H,5,10-17H2,(H,26,27);1H
